US05576343
In 300 ml of tetrahydrofuran were dissolved 1.1 g of ethyl 3-(5-cyano-2-benzofuranyl)-2-(4-hydroxyphenyl)propionate, 1.24 g of (2R)-2-tert-butoxycarbonyl-amino-1-butanol and 1.72 g of triphenylphosphine. The thus prepared solution was mixed with 1.14 g of diethyl azodicarboxylate and stirred at room temperature for 18 hours. The resulting solution was further mixed with 0.83 g of (2R)-2-tert-butoxycarbonylamino-1-butanol, 1.2 g of triphenylphosphine and 0.76 g of diethyl azodicarboxylate, and the mixture was stirred at room temperature for 18 hours. After concentrating the thus prepared reaction solution to dryness, the resulting residue was purified by subjecting it to silica gel column chromatography using a toluene/ethyl acetate mixture as a developing solvent, thereby obtaining 660 mg of ethyl 2-[4-[((2R)-2-tert-butoxycarbonylamino-1-butyl)oxy]phenyl]-3-(5-cyano-2-benzofuranyl)propionate in a colorless and oily form.

reactant | ethyl 3-(5-cyano-2-benzofuranyl)-2-(4-hydroxyphenyl)propionate | 1.1 g | C(#N)C=1C=CC2=C(C=C(O2)CC(C(=O)OCC)C2=CC=C(C=C2)O)C1 | C20H17NO4
reactant | (2R)-2-tert-butoxycarbonyl-amino-1-butanol | 1.24 g | C(C)(C)(C)OC(=O)[C@@H](C(O)N)CC | C9H19NO3
reactant | triphenylphosphine | 1.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.14 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2R)-2-tert-butoxycarbonylamino-1-butanol | 0.83 g | C(C)(C)(C)OC(=O)N[C@@H](CO)CC | C9H19NO3
reactant | triphenylphosphine | 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.76 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | ethyl 2-[4-[((2R)-2-tert-butoxycarbonylamino-1-butyl)oxy]phenyl]-3-(5-cyano-2-benzofuranyl)propionate | 660 mg | C(C)(C)(C)OC(=O)N[C@@H](COC1=CC=C(C=C1)C(C(=O)OCC)CC=1OC2=C(C1)C=C(C=C2)C#N)CC | C29H34N2O6
